US07696352B2
5-Chloro-N-((1-(4-(N-methylpropionamido)phenyl)-1H-1,2,3-triazol-4-yl)methyl)thiophene-2-carboxamide (24)
The mixture of 5-chloro-N-((1-(4-iodophenyl)-1H-1,2,3-triazol-4-yl)methyl)thiophene-2-carboxamide (100 mg, 0.22 mmol), C2H5CONHCH3 (77 μL, 0.88 mmol), CuI (42 mg, 0.22 mmol), N,N′-dimethylethylenediamine (24 μL, 0.22 mmol), cesium carbonate (290 mg, 0.88 mmol) in 5 mL dioxane in a sealed tube was stirred for 15 hrs at 120° C. The title compound was isolated directly from the reaction mixture using reverse phase prep HPLC. MS found for C18H18ClN5O2S (M+H)+ 404.1, 406.1 (Cl pattern).

reactant | 5-chloro-N-((1-(4-iodophenyl)-1H-1,2,3-triazol-4-yl)methyl)thiophene-2-carboxamide | 0.22 mmol, 100 mg | ClC1=CC=C(S1)C(=O)NCC=1N=NN(C1)C1=CC=C(C=C1)I | C14H10ClIN4OS
reactant | C2H5CONHCH3 | 0.88 mmol, 77 μL | C(C)C(=O)NC | C4H9NO
reactant | N,N′-dimethylethylenediamine | 0.22 mmol, 24 μL | CNCCNC | C4H12N2
reactant | cesium carbonate | 0.88 mmol, 290 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | CuI | 0.22 mmol, 42 mg | [Cu]I
product | 5-Chloro-N-((1-(4-(N-methylpropionamido)phenyl)-1H-1,2,3-triazol-4-yl)methyl)thiophene-2-carboxamide | ClC1=CC=C(S1)C(=O)NCC=1N=NN(C1)C1=CC=C(C=C1)N(C(CC)=O)C | C18H18ClN5O2S
